US07790724B2
b) [4-Amino-3-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-acetonitrile
The title compound was prepared from (4-amino-3-bromo-phenyl)-acetonitrile (as prepared in the previous step, 805 mg, 3.81 mmol), 4,4-dimethylcyclohexen-1-yl boronic acid (705 mg, 4.57 mmol), Pd(PPh3)4 (440 mg, 0.380 mmol), and 2M Na2CO3 (15.2 mL, 30.5 mmol) according to the procedure in Example 34, step (b) (417 mg, 46%). 1H—NMR (CDCl3; 400 MHz): δ 6.89 (1H, dd, J=8.1, 2.0 Hz), 6.84 (1H, d, J=2.0 Hz), 6.59 (d, 1H, J=8.1 Hz), 5.60 (m, 1H), 3.71 (br s, 2H), 2.19-2.15 (m, 2H), 1.90-1.88 (m, 2H), 1.45-1.42 (m, 2H), 0.92 (s, 6H).

reactant | (4-amino-3-bromo-phenyl)-acetonitrile | NC1=C(C=C(C=C1)CC#N)Br | C8H7BrN2
reactant | 4,4-dimethylcyclohexen-1-yl boronic acid | 4.57 mmol, 705 mg | CC1(CC=C(CC1)B(O)O)C | C8H15BO2
reactant | Na2CO3 | 30.5 mmol, 2M, 15.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.380 mmol, 440 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [4-Amino-3-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-acetonitrile | NC1=C(C=C(C=C1)CC#N)C1=CCC(CC1)(C)C | C16H20N2
